US04590188
A mixture of 1.2 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-9-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 0.65 g of 2-(dimethylamino)ethyl chloride hydrochloride, 1.3 g of potassium carbonate and 50 ml of acetone is treated in the same manner as described in Example 56. The crude product thus obtained is converted to its hydrochloride and recrystallized from isopropanol. 1.7 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl-]-9-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride are obtained.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-9-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.2 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC=C2F | C16H14FNO3S
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 0.65 g | Cl.CN(CCCl)C
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloride | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl-]-9-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 1.7 g | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2F | InChI=1S/C20H23FN2O3S.ClH/c1-22(2)11-12-23-16-6-4-5-15(21)19(16)27-18(17(24)20(23)25)13-7-9-14(26-3)10-8-13;/h4-10,17-18,24H,11-12H2,1-3H3;1H/t17-,18+;/m1./s1
